US08937060B2
4-Phenyl-4,7-diaza-spiro[2.5]octane-7-carboxylic acid tert-butyl ester (D61)
A stirred solution of 4,7-diaza-spiro[2.5]octane-7-carboxylic acid tert-butyl ester (0.1 g, 0.471 mmol) [C.A.S. 886766-28-5], iodobenzene (0.026 ml, 0.236) and CsOH (0.079 g, 0.471 mmol) in DMSO (1 ml) was heated in a sealed tube at 120° C. for 20 min. After cooling, additional 4,7-diaza-spiro[2.5]octane-7-carboxylic acid tert-butyl ester (2 eq.) was added, and the mixture was then heated at 120° C. for 20 min. The mixture was cooled. The mixture was washed with NH4Cl (aqueous sat. solution) was added and extracted with Et2O. The organic phase was separated, washed with water, dried (Na2SO4) and concentrated in vacuo. The crude product was purified by manifold (Sep-Pak® silica cartridge; DCM as eluent). The desired fractions were collected and concentrated in vacuo to yield intermediate D61 (0.021 g, 31%) as a white solid.

reactant | 4,7-diaza-spiro[2.5]octane-7-carboxylic acid tert-butyl ester | 0.471 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1CCNC2(CC2)C1 | C11H20N2O2
reactant | iodobenzene | 0.026 ml | IC1=CC=CC=C1 | C6H5I
reactant | 4,7-diaza-spiro[2.5]octane-7-carboxylic acid tert-butyl ester | 2 eq. | C(C)(C)(C)OC(=O)N1CCNC2(CC2)C1 | C11H20N2O2
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 4-Phenyl-4,7-diaza-spiro[2.5]octane-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(C2(CC2)C1)C1=CC=CC=C1 | C17H24N2O2
